US07906528B2
A mixture of (E)-3-[5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-acrylic acid ethyl ester (140 mg, 0.3 mmol) and 10% Pd/C (20 mg) in EtOH (4 mL) is stirred under hydrogen (1 atm) for 18 hour at room temperature. The mixture is filtered over celite and concentrated under reduced pressure to afford 3-[5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-propionic acid ethyl ester as a colorless oil.

reactant | (E)-3-[5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-acrylic acid ethyl ester | 0.3 mmol, 140 mg | C(C)OC(\C=C\C1=CN(C2=CN=C(C=C21)C2=C(C=CC=C2CC)CC)C2=CC=C(C=C2)C(C)C)=O | C31H34N2O2
solvent | EtOH | 4 mL | CCO | C2H6O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 3-[5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-propionic acid ethyl ester | C(C)OC(CCC1=CN(C2=CN=C(C=C21)C2=C(C=CC=C2CC)CC)C2=CC=C(C=C2)C(C)C)=O | C31H36N2O2
